US09163008B2
As To a milky suspension of the tert-butyl 3-carbamoyl-4-(6-carbamoyl-2-(4-(4-fluorophenoxy)phenyl)pyrimidin-4-yl)piperazine-1-carboxylate (0.363 g, 0.677 mmol) in dioxane (10 mL) was added 4M HCl in dioxane (2 mL, 8 mmol). After stirring for 3 days the reaction was concentrated in vacuo. The solid residue was partitioned between 10 mL EtOAc and 2 mL 2M aqueous Na2CO3 solution. The mixture was diluted with 25 mL EtOAc, 8 mL water and 25 mL brine. The organic layer was separated and the aqueous layer was extracted four times with 25 mL EtOAc. The combined organic layers were dried over MgSO4, filtered, and evaporated in vacuo. The residue was triturated with 2 mL 1:1 EtOAc/hexanes, filtered, and rinsed once with 2 mL 1:1 EtOAc/hexanes. The solid was dried under vacuum at 40° C. to give the product 6-(2-carbamoylpiperazin-1-yl)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide as a pale tan powder (0.212 g, 0.486 mmol, 72% yield).

reactant | tert-butyl 3-carbamoyl-4-(6-carbamoyl-2-(4-(4-fluorophenoxy)phenyl)pyrimidin-4-yl)piperazine-1-carboxylate | 0.677 mmol, 0.363 g | C(N)(=O)C1CN(CCN1C1=NC(=NC(=C1)C(N)=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)OC(C)(C)C | C27H29FN6O5
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 8 mmol, 2 mL | O1CCOCC1 | C4H8O2
product | 6-(2-carbamoylpiperazin-1-yl)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide | 0.486 mmol, 0.212 g, 72% yield | C(N)(=O)C1N(CCNC1)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)N | C22H21FN6O3
